US08609687B2
2-iodo-8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridine
A solution of potassium iodide (5.4 g, 32 mmol, 3.9 equiv) and sodium nitrite (1.73 g, 25.1 mmol, 3.00 equiv) in water (10 mL) was added over 5 min to a solution of 8-(4-methoxyphenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine (2.01 g, 8.36 mmol, 1 equiv) and p-toluenesulfonic acid (7.3 g, 38 mmol, 4.6 equiv) in acetonitrile at 24° C. After 19 h, the reaction mixture was diluted with ethyl acetate (250 mL), and the resulting solution was washed sequentially with water (2×120 mL) and saturated aqueous sodium chloride solution (120 mL). The collected organic was dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by flash column chromatography (20→30% ethyl acetate in heptane) provided product as a light yellow solid (1.92 g, 65% yield). 1H NMR (400 MHz, CDCl3), δ: 8.46 (dd, J=6.8, 1.0 Hz, 1 H), 7.96 (m, 2 H), 7.59 (dd, J=7.4, 1.1 Hz, 1 H), 7.01-7.06 (m, 3 H), 3.86 (s, 3 H).

reactant | potassium iodide | 32 mmol, 5.4 g, 3.9 equiv | [I-].[K+]
reactant | sodium nitrite | 25.1 mmol, 1.73 g, 3.00 equiv | N(=O)[O-].[Na+]
reactant | 8-(4-methoxyphenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine | 8.36 mmol, 2.01 g, 1 equiv | COC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O
reactant | p-toluenesulfonic acid | 38 mmol, 7.3 g, 4.6 equiv | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-iodo-8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.92 g, 65% yield | IC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)OC)=N1 | C13H10IN3O
